US07816557B2
Step C. 5-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ol
5-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylamine (2.74 g, 10.87 mmol) is suspended in hydrochloric acid (21.74 mL, 5N) and the solution is cooled to −15° C. in a brine/ice bath. Sodium nitrate (0.9 g, 13.04 mmol) in water (10 mL) is added slowly to the mixture. The reaction is allowed to stir at −15° C. for ten minutes after complete addition. Hexafluorophosphoric acid (5 mL, 21.74 mmol of a 60% wt. solution in water) is added slowly to the mixture. The resulting slurry is filtered, rinsed with cold water, methanol, and diethyl ether, and dried under vacuum. This solid is added in small portions to a round bottom containing acetic acid (10 mL) at 105° C. This solution is cooled to room temperature then treated with sodium hydroxide (25 mL, 5N) for 30 min. The pH of this solution is adjusted to 6 with hydrochloric acid, extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, then filtered and concentrated to provide the title product (2.2 g, 8.69 mmol).

reactant | 5-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylamine | 10.87 mmol, 2.74 g | CC=1C=C(C=NC1C1=CC=C(C=C1)C(F)(F)F)N | C13H11F3N2
reactant | Sodium nitrate | 13.04 mmol, 0.9 g | [N+](=O)([O-])[O-].[Na+]
reactant | Hexafluorophosphoric acid | F[P-](F)(F)(F)(F)F.[H+]
solvent | hydrochloric acid | 5N, 21.74 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 5-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ol | 8.69 mmol, 2.2 g | CC=1C=C(C=NC1C1=CC=C(C=C1)C(F)(F)F)O | C13H10F3NO
